US08865738B2
8.2 Ethyl 5-[({[3-(6-fluoroquinolin-2-yl)-3-azabicyclo-[3.1.0]hex-6-yl]carbamoyl}oxy)methyl]isoxazole-3-carboxylate
Starting from 1.55 g (3.79 mmol) of ethyl 5-{[(3-azabicyclo[3.1.0]hex-6-ylcarbamoyl)oxy]methyl}isoxazole-3-carboxylate in trifluoroacetate form, 1.98 ml (11.37 mmol) of N,N-diisopropylethylamine, and 0.68 g (3.79 mmol) of 2-chloro-6-fluoro-quinoline, and eluting with a 99/1 to 98/2 mixture of dichloromethane and methanol, 0.61 g (36%) of product is obtained in the form of an orange oil.

reactant | ethyl 5-{[(3-azabicyclo[3.1.0]hex-6-ylcarbamoyl)oxy]methyl}isoxazole-3-carboxylate | 3.79 mmol, 1.55 g | C12CNCC2C1NC(=O)OCC1=CC(=NO1)C(=O)OCC | C13H17N3O5
reactant | N,N-diisopropylethylamine | 11.37 mmol, 1.98 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-chloro-6-fluoro-quinoline | 3.79 mmol, 0.68 g | ClC1=NC2=CC=C(C=C2C=C1)F | C9H5ClFN
solvent | trifluoroacetate | FC(C(=O)[O-])(F)F
product | Ethyl 5-[({[3-(6-fluoroquinolin-2-yl)-3-azabicyclo-[3.1.0]hex-6-yl]carbamoyl}oxy)methyl]isoxazole-3-carboxylate | 0.61 g, 36% | FC=1C=C2C=CC(=NC2=CC1)N1CC2C(C2C1)NC(=O)OCC1=CC(=NO1)C(=O)OCC | C22H21FN4O5
